US05260461
To a well-stirred solution of bis-1,4-(9'-O-dihydroquinidine)phthalazine (7.8 mg, 0.01 mmol), potassium ferricyanide (0.99 g, 3 mmol), potassium carbonate (0.42 g, 3 mmol), and osmium tetroxide (0.1 mL of a 0.1M toluene solution, 0.01 mmol) in 15 mL of a tert-butyl alcohol-water (1:1, v/v) at 0° C., 1-decene (0.14 g, 0.19 mL, 1 mmol) was added in one portion. The mixture was stirred for 24 h at 0° C. Solid sodium sulfite (1.5 g) was added and the mixture was stirred for an additional hour, and then warmed up to room temperature. Ethyl acetate (10 mL) was added to the reaction mixture, and aqueous layer was extracted with ethyl acetate (3×5 mL). Combined organic layer was dried over anhydrous magnesium sulfate, and concentrated in vacuo. Crude product was purified by flash chromatography (silica gel, hexanes/EtOAc) to afford decane 1,2-diol as a white solid (0.145 g, 83%). HPLC analysis of the bis-Mosher ester of this crude decane 1,2 diol gave 84% ee.

reactant | potassium carbonate | 3 mmol, 0.42 g | C([O-])([O-])=O.[K+].[K+]
reactant | toluene | 0.1M | C1(=CC=CC=C1)C | C7H8
reactant | 1-decene | 1 mmol, 0.19 mL, 0.14 g | C=CCCCCCCCC | C10H20
reactant | sodium sulfite | 1.5 g | S(=O)([O-])[O-].[Na+].[Na+]
solvent | tert-butyl alcohol water | 15 mL | C(C)(C)(C)O.O
catalyst | potassium ferricyanide | 3 mmol, 0.99 g | [Fe-3](C#N)(C#N)(C#N)(C#N)(C#N)C#N.[K+].[K+].[K+]
catalyst | osmium tetroxide | [Os](=O)(=O)(=O)=O
solvent | Ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | decane 1,2-diol | 0.145 g, 83% | C(C(CCCCCCCC)O)O | C10H22O2
